US04125563
I. m-Nitro-β-chlorocinnamaldehyde
To 400 ml of anhydrous dimethylformamide was added with stirring 455 g. (3.01 moles) of phosphorus oxychloride. The mixture was kept at 20° to 25° throughout the addition by external cooling. After standing overnight, a solution of 330 g. (2 moles) of m-nitroacetophenone in 400 ml anhydrous dimethylformamide was added dropwise, keeping the pot temperature at 20° to 25° by external cooling. Addition required about 1/2 hour. Stirring was continued without external cooling, during which time the temperature rose to 55° C. and then dropped to ambient temperature. The mixture was poured into cold sodium bicarbonate solution, keeping the pH at least 7, and the crude product was filtered. This product was taken up in ca. 1 liter of benzene and separated from residual water entrained by the crystals by drying with anhydrous potassium carbonate. The benzene solution was concentrated on a rotary evaporator to approximately one-third of its volume, and hexane was added until the hot solution just began to cloud. A small amount of benzene dissolved some material that oiled out, and the solution was cooled to yield crystals m.p. 83°. A second crop was obtained by evaporation of the filtrate and cooling. Total yield 195.7 g. (46.4%).

reactant | phosphorus oxychloride | 3.01 moles | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | m-nitroacetophenone | 2 moles | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=O | C8H7NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | m-Nitro-β-chlorocinnamaldehyde | [N+](=O)([O-])C=1C=C(C(=CC=O)Cl)C=CC1 | C9H6ClNO3
